US07517905B2
Preparation of (R or S)—N-(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl]-[3-(2-methoxy-5-methylphenyl)-3-phenyl propyl]amine (Compound No. 15)
The compound, toluene-4-sulphonic acid-3-(2-methoxy-5-methylphenyl)-3-phenylpropyl ester (prepared as described in EP 0325571, 1.5 gm, 3.66 mmole, 1 eq) was dissolved in dry acetonitrile (4 ml). To the reaction mixture, 3-benzyl-3,6-diazabicyclo[3.1.0]hex-6-yl amine, 1.38 gm, 7.32 mmole, 2 eq, (prepared according to T. F. Braish et al. Synlett 1996, 1100) and triethylamine (5.1 ml) were added. The resulting reaction mixture was heated at 80° C. for 4 days. The solvents were evaporated off, from the reaction mixture under reduced pressure. The residue was dissolved in ethyl acetate, and washed with saturated sodium bicarbonate solution. The organic layer was separated, dried over sodium sulphate and concentrated under high vaccum. The crude compound was purified through column chromatography using ethyl acetate in hexane solvent system.

reactant | toluene-4-sulphonic acid-3-(2-methoxy-5-methylphenyl)-3-phenylpropyl ester | 3.66 mmole, 1.5 gm, 1 eq | COC1=C(C=C(C=C1)C)C(CCOS(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C24H26O4S
reactant | 3-benzyl-3,6-diazabicyclo[3.1.0]hex-6-yl amine | C(C1=CC=CC=C1)N1CC2N(C2C1)N | C11H15N3
reactant | triethylamine | 5.1 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
product | N-(3-benzyl-3-azabicyclo[3.1.0]hex-6-yl]-[3-(2-methoxy-5-methylphenyl)-3-phenyl propyl]amine | C(C1=CC=CC=C1)N1CC2C(C2C1)NCCC(C1=CC=CC=C1)C1=C(C=CC(=C1)C)OC | C29H34N2O
